* source NET_DFF_TG
M_M38         N47473 CLK N48007 VDD MbreakP  
+ L=.18u  
+ W=.72u         
M_M27         N47627 N47473 VDD VDD MbreakP  
+ L=.18u  
+ W=1.8u         
M_M35         OUTQBAR OUTQ VDD VDD MbreakP  
+ L=.18u  
+ W=1.8u         
M_M25         N47473 N47351 VDD VDD MbreakP  
+ L=.18u  
+ W=1.8u         
M_M28         N47627 N47473 0 0 MbreakN  
+ L=.18u  
+ W=.72u         
M_M37         N48007 CLKBAR N47473 0 MbreakN  
+ L=.18u  
+ W=.72u         
M_M34         OUTQ N48007 0 0 MbreakN  
+ L=.18u  
+ W=.72u         
C_C4         0 OUTQ  20p 
M_M23         DIN CLK N47351 0 Mbreakn  
+ L=.18u  
+ W=.72u         
M_M26         N47473 N47351 0 0 MbreakN  
+ L=.18u  
+ W=.72u         
M_M41         CLKBAR CLK VDD VDD MbreakP  
+ L=.18u  
+ W=.72u         
M_M39         N48007 CLK OUTQBAR 0 MbreakN  
+ L=.18u  
+ W=.72u         
M_M42         CLKBAR CLK 0 0 MbreakN  
+ L=.18u  
+ W=.72u         
M_M36         OUTQBAR OUTQ 0 0 Mbreakn  
+ L=.18u  
+ W=.72u         
V_V30         DIN 0  
+PULSE 0 1.8V 0 1n 1n 3u 6u
V_V29         CLK 0  
+PULSE 0 1.8V 0 1n 1n 2u 4u
M_M40         OUTQBAR CLKBAR N48007 VDD MbreakP  
+ L=.18u  
+ W=.72u         
M_M30         N47351 CLK N47627 VDD MbreakP  
+ L=.18u  
+ W=.72u         
M_M24         N47351 CLKBAR DIN VDD Mbreakp  
+ L=.18u  
+ W=.72u         
M_M33         OUTQ N48007 VDD VDD MbreakP  
+ L=.18u  
+ W=1.8u         
M_M29         N47627 CLKBAR N47351 0 MbreakN  
+ L=.18u  
+ W=.72u         
V_V20         N51925 0 1.8Vdc
V_V31         N51925 VDD 0Vdc
F1 0 5 V_V31 0.0045
C1 5 0 10n
R1 5 0 100K
 
.MODEL MBREAKP PMOS
.MODEL MBREAKN NMOS  
.tran 1e-0 20e-6 UIC 
.control
run
*PLOT V(OUTQ)
*Plot V(OUTQ)
*PLOT V(CLK)
*PLOT V(DIN)
*PLOT V(VDD)* I(V_V31)
PRINT V(5)
PLOT V(5)
.endc
.end  